US04335054
The procedure described in Example 1 is repeated, except that 15.86 g (0.1 mol) of 4-fluorobenzoyl chloride, 26.95 g (0.1 mol) of tri-n-hexylamine, 6.53 g (0.125 mol) of acrylonitrile and 0.575 g (0.001 mol) of bis-(dibenzylidene-acetone)-palladium(O) in 50 ml of dioxane are used. After a reaction time of 33 hours at 100° C., 2.63 g (0.0179 mol) of 4-fluorocinnamonitrile are obtained, corresponding to a yield of 17.9% of theory; analysis for C9H6FN (molecular weight 147): calculated C 73.46%, H 4.11%, N 9.52%; found C 73.16%, H 4.19%, N 9.61%.

reactant | 4-fluorobenzoyl chloride | 0.1 mol, 15.86 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | tri-n-hexylamine | 0.1 mol, 26.95 g | C(CCCCC)N(CCCCCC)CCCCCC | C18H39N
reactant | acrylonitrile | 0.125 mol, 6.53 g | C(C=C)#N | C3H3N
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-fluorocinnamonitrile | 0.0179 mol, 2.63 g, yield of 17.9% | FC1=CC=C(C=CC#N)C=C1 | C9H6FN
